US04021470
To a methanolic solution of sodium methoxide (prepared from 30 ml of methanol and 0.2 g. of sodium) were added 91 g. of methyl anthranilate and 78 g. of 1-octanol. The reaction mixture was heated at 90° C. for 0.75 hour and at 125° C. for 0.75 hour while methanol was removed by distillation. The residue was washed with water, dried, and distilled. n-Octyl anthranilate was obtained as a clear liquid, b.p. 139°-144° C. at about 0.5 mm.

reactant | sodium methoxide | 30 ml, 0.2 g | C[O-].[Na+]
reactant | methyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | 1-octanol | C(CCCCCCC)O | C8H18O
solvent | methanol | CO | CH4O
product | n-Octyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OCCCCCCCC | C15H23NO2
